US04018922
A solution of 51.5 g of 2-(1-benzyl-4-methyl-4-piperidyloxy)-ethanol in 500 ml of absolute ethanol was reacted with hydrogen at 50° C in the presence of 5 g of 5% palladized charcoal until the theoretical amount of hydrogen was absorbed (about 31/2 hours) and the catalyst was then filtered off. The ethanol was evaporated and the residue was distilled under reduced pressure to obtain 24 g of 2-(4-methyl-4-piperidyloxy) -ethanol as a colorless oil boiling at 80°-86° C at 0.01 mm Hg and having a refractive index nD24 = 1.481.

reactant | 2-(1-benzyl-4-methyl-4-piperidyloxy)-ethanol | 51.5 g | C(C1=CC=CC=C1)N1CCC(CC1)(OCCO)C | C15H23NO2
reactant | hydrogen | [H][H] | H2
reactant | charcoal | C | CH4
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(4-methyl-4-piperidyloxy) -ethanol | 24 g | CC1(CCNCC1)OCCO | C8H17NO2
